US05665718
4.6 g (12.9 mmol) of (S)-1-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-8-chloro-12,12a-dihydro-9H,11H-azeto[2,1-c]-imidazo[1,5-a][1,4]benzodiazepin-9-one, 25 ml of N,N-dimethylformamide, 8.6 ml (50.3 mmol) of N-ethyldiisopropylamine and 3.4 ml (32.2 mmol) of bromomethylcyclopropane were stirred at 80° for 18 hours. The reaction solution was evaporated, the residue was dissolved in methylene chloride, the solution was washed three times with water, dried over magnesium sulfate and evaporated. The residue was chromatographed on 110 g of silica gel while eluting with methylene chloride/ethyl acetate 1/1. There were obtained 2.3 g (38%) of (S)-1-[3-(bis-cyclopropylmethylaminomethyl)-1,2,4-oxadiazol-5-yl]-8-chloro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one, which was converted into the hydrochloride of m.p. 155°-160°.

reactant | (S)-1-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-8-chloro-12,12a-dihydro-9H,11H-azeto[2,1-c]-imidazo[1,5-a][1,4]benzodiazepin-9-one | 12.9 mmol, 4.6 g | NCC1=NOC(=N1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3Cl)=O)CC1 | C16H13ClN6O2
reactant | N-ethyldiisopropylamine | 50.3 mmol, 8.6 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | bromomethylcyclopropane | 32.2 mmol, 3.4 ml | BrCC1CC1 | C4H7Br
reactant | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | (S)-1-[3-(bis-cyclopropylmethylaminomethyl)-1,2,4-oxadiazol-5-yl]-8-chloro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 2.3 g, 38% | C1(CC1)CN(CC1CC1)CC1=NOC(=N1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3Cl)=O)CC1 | C24H25ClN6O2
